data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2470,2738,[CH3:18][C:19](=[O:20])[C-:21]([NH+:22]=[CH:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1.[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([CH3:7])([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([CH3:7])([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:21]([C:19]([CH3:18])=[O:20])([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[NH:22][CH:23]2[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,25.85461223858585,-17.345071295880757
1305,1431,[CH3:1][O:2]/[C:3]([CH3:4])=[C:5](\[CH3:6])[O:7][CH3:8].[CH3:9][N+:10](=[CH:11][C:12]#[N:13])[C-:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][O:2][C@@:3]1([CH3:4])[C@:5]([CH3:6])([O:7][CH3:8])[C:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:10]([CH3:9])[CH:11]1[C:12]#[N:13],water,298.15,32.73760688156696,-9.203126675037096
1150,1249,[CH3:15][CH-:16][O+:17]=[C:18]([C:19]([CH3:20])=[O:21])[C:22]([CH3:23])=[O:24].[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:18]([C:19]([CH3:20])=[O:21])([C:22]([CH3:23])=[O:24])[O:17][CH:16]2[CH3:15],water,298.15,17.30315292649533,-52.747825421125256
837,907,[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[NH+:17][C-:18]([C:19]#[N:20])[C:21]([CH3:22])=[O:23].[CH3:1][NH:2][C:3](=[O:4])/[CH:5]=[CH:6]\[C:7](=[O:8])[NH:9][CH3:10]>>[CH3:1][NH:2][C:3](=[O:4])[C@@H:5]1[C@H:6]([C:7](=[O:8])[NH:9][CH3:10])[C:18]([C:19]#[N:20])([C:21]([CH3:22])=[O:23])[NH:17][C:15]1([C:13]([NH:12][CH3:11])=[O:14])[CH3:16],water,298.15,21.482673439942307,-11.920359386137676
673,733,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][N-:16][C:17]#[N:18])[C:19](=[O:20])[NH:21][CH3:22].[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][O:2][C:3]12[CH:4]([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:19](=[O:20])[NH:21][CH3:22])[NH:15][N:16]2[C:17]#[N:18],water,298.15,22.44428288824346,-21.09744098531392
354,384,[CH3:11][O:12][C:13](=[O:14])[N-:15][N+:16]#[C:17][C:18]([CH3:19])=[O:20].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[N:15]([C:13]([O:12][CH3:11])=[O:14])[N:16]=[C:17]2[C:18]([CH3:19])=[O:20],water,298.15,19.033177515071905,-39.10150402933623
334,363,[CH3:1][O:2][C:3]#[C:4][C:5](=[O:6])[O:7][CH3:8].[CH3:9][NH:10][C:11](=[O:12])[C:13]([CH3:14])=[NH+:15][C-:16]([C:17]#[N:18])[C:19]#[N:20]>>[CH3:1][O:2][C:3]1=[C:4]([C:5](=[O:6])[O:7][CH3:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([CH3:14])[NH:15][C:16]1([C:17]#[N:18])[C:19]#[N:20],water,298.15,22.98963746938252,-32.372705862957226
3519,4011,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[CH3:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])=[N:15][C:16]1([CH3:17])[CH3:18],water,298.15,22.43462302737366,-33.24097144485253
4729,5401,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18](=[O:19])[NH:20][CH3:21])([C:22](=[O:23])[NH:24][CH3:25])[N:16]=[C:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,23.346956828274536,-20.91928552729816
52,63,[CH2-:5][NH+:6]=[C:7]([C:8](=[O:9])[NH:10][CH3:11])[C:12](=[O:13])[NH:14][CH3:15].[CH:1]#[C:2][O:3][CH3:4]>>[CH:1]1=[C:2]([O:3][CH3:4])[CH2:5][NH:6][C:7]1([C:8](=[O:9])[NH:10][CH3:11])[C:12](=[O:13])[NH:14][CH3:15],water,298.15,17.32430303227943,-54.26920042655779
4081,4674,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[N-:19][NH+:20]=[NH:21]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:19]([C:17]([O:16][CH3:15])=[O:18])[NH:20][NH:21]2,water,298.15,26.345620621660448,-1.1232571423615385
2351,2610,[CH3:17][NH:18][C:19](=[O:20])[C:21](=[NH+:22][C-:23]([CH3:24])[C:25]([CH3:26])=[O:27])[C:28](=[O:29])[NH:30][CH3:31].[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([F:11])([Cl:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([F:11])([Cl:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]([C:19]([NH:18][CH3:17])=[O:20])([C:28](=[O:29])[NH:30][CH3:31])[NH:22][C:23]2([CH3:24])[C:25]([CH3:26])=[O:27],water,298.15,19.33433842073724,-31.87976816954489
